US07897607B2
1-Benzyl-5-chloro-3-chloromethylcinnolin-4(1H)-one
To 0.42 g (1.4 mmol) of 1-benzyl-5-chloro-3-hydroxymethylcinnolin-4(1H)-one in 25 mL of dichloromethane at 0° C. was added 0.97 mL (7.0 mmol) of triethylamine and 0.33 mL (4.2 mmol) of methanesulfonyl chloride. The reaction was allowed to warm to room temperature and stirred for 5 h. The reaction was concentrated by rotary evaporation and was subsequently dissolved in dichloromethane and concentrated onto silica gel. The crude material was purified by flash chromatography eluting with a 33-50% ethyl acetate/hexanes gradient mixture to give 0.26 g (59%) of the title compound as an off-white solid.

reactant | 1-benzyl-5-chloro-3-hydroxymethylcinnolin-4(1H)-one | 1.4 mmol, 0.42 g | C(C1=CC=CC=C1)N1N=C(C(C2=C(C=CC=C12)Cl)=O)CO | C16H13ClN2O2
reactant | triethylamine | 7.0 mmol, 0.97 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 4.2 mmol, 0.33 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 1-Benzyl-5-chloro-3-chloromethylcinnolin-4(1H)-one | 0.26 g, 59% | C(C1=CC=CC=C1)N1N=C(C(C2=C(C=CC=C12)Cl)=O)CCl | C16H12Cl2N2O
